US04140789
4-Allyloxy-3-methyl-benzimidazol-2-one, which has a melting point of 167°-168°, is obtained analogously to Example 10c) from 5.4 g of 1-allyloxy-2-methylamino-3-aminobenzene and 6.1 g N,N'-carbonyldiimidazole in 100 ml of toluene, after working up and subsequently recrystallising from toluene.

reactant | 4-Allyloxy-3-methyl-benzimidazol-2-one | C(C=C)OC1=CC=CC=2NC(N(C21)C)=O | C11H12N2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-allyloxy-2-methylamino-3-aminobenzene | 5.4 g | C(C=C)OC1=C(C(=CC=C1)N)NC | C10H14N2O
